US05254558
To a suspension of 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide (1.13 g) and 2,6-lutidine (0.5 mL) in dichloromethane (5 mL) at 0° C. was added tert-butyldimethylsilyl trifluoromethanesulfonate (0.73 mL). The mixture was allowed to stir for 1.5 h. over which time the suspension became a solution. The mixture was poured into 1N hydrochloric acid and extracted into ether. The organic layer was washed (water), dried and evaporated to give an oil, which crystallized upon addition of ether:hexane to give a white solid. The solid was collected and washed with hexane to yield 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a white solid (1.1 g); MS: m/z=647(M+1).

reactant | 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | 1.13 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O)C(C)C)C1=CC=CC=C1 | C26H27F3N4O5
reactant | 2,6-lutidine | 0.5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 0.73 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(5-benzyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 1.1 g | C(C1=CC=CC=C1)OC(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C32H41F3N4O5Si
